US07432279B2
4-[(3-chloro-4-fluorophenyl)amino]-6-{[(1S, 2R)-2-hydroxy-1-methyl-2-phenylethyl]amino}-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 51, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile (0.10 g, 0.32 mmol) was reacted with (1R, 2S)-(−) norephdrine (0.96 g, 6.32 mmol) in 2 mL of THF. The reaction mixture was heated up in a sealed vial in a microwave reactor at 140° C. for 105 min. The crude product was purified by preparative HPLC and lyophilized to give a fluffy, yellow solid (26.7 mg, 18.9% yield): 1H NMR (400 MHz, DMSO-D6) δ ppm 1.09 (d, J=6.32 Hz, 3 H) 3.94-4.06 (m, 1 H) 4.73 (t, J=4.80 Hz, 1 H) 5.52 (d, J=4.29 Hz, 1 H) 6.49 (d, J=9.35 Hz, 1 H) 6.98 (s, 1 H) 7.18 (t, J=7.20 Hz, 1 H) 7.22-7.51 (m, 6 H) 7.58 (d, J=4.29 Hz, 1 H) 8.25 (s, 1 H) 8.81 (s, 1 H) 9.60 (s, 1 H); HRMS (ESI+) calcd for C24H19ClFN5O 448.13349, found (MH+) 448.1334.

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 0.32 mmol, 0.10 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-{[(1S, 2R)-2-hydroxy-1-methyl-2-phenylethyl]amino}-1,7-naphthyridine-3-carbonitrile | 26.7 mg, 18.9% yield | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)N[C@H]([C@@H](C1=CC=CC=C1)O)C)C#N | C24H19ClFN5O
